US05006157
Preparation of 1-(α,α-dimethylbenzyl)-4-methyl-3-phenyl-1,2,5,6-tetrahydropyridin-2-one (Compound No. 7)
7.1 g (0.022 mol) of N-(α,α-dimethylbenzyl)-N-(3-oxobutyl)phenylacetamide prepared by the method of Reference Example 10, was dissolved in 50 ml of ethanol, and 0.33 g (0.005 mol) of potassium hydroxide powder was added thereto. The mixture was reflux under heating for 1.5 hours. Then, the reaction mixture was returned to room temperature, and ethanol was distilled off under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. Then ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. The solent was distilled off under reduced pressure. the residue thereby obtained was recrystallized from ethanol to obtain 4.5 g (yield: 67.2%) of the desired compound.

reactant | N-(α,α-dimethylbenzyl)-N-(3-oxobutyl)phenylacetamide | 0.022 mol, 7.1 g | CC(C1=CC=CC=C1)(C)N(C(CC1=CC=CC=C1)=O)CCC(C)=O | C21H25NO2
reactant | potassium hydroxide | 0.005 mol, 0.33 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(α,α-dimethylbenzyl)-4-methyl-3-phenyl-1,2,5,6-tetrahydropyridin-2-one | 4.5 g, yield: 67.2% | CC(C1=CC=CC=C1)(C)N1C(C(=C(CC1)C)C1=CC=CC=C1)=O | C21H23NO
